US09290472B2
A mixture of 2-oxopiperazine (1.07 g), iodoethane (1.72 g) and potassium carbonate (2.76 g) in acetonitrile (50 mL) was stirred at 55° C. for 3 hours. After cooling, the mixture was filtered and the filtrate was concentrated in vacuo. The residue was triturated with DCM and filtered and the filtrate was concentrated in vacuo. The residue was purified by chromatography on silica, eluting with a mixture of methanol and DCM with a gradient of 0-40% to give 4-ethylpiperazin-2-one (0.991 g) as a colourless oil.

reactant | 2-oxopiperazine | 1.07 g | O=C1NCCNC1 | C4H8N2O
reactant | iodoethane | 1.72 g | ICC | C2H5I
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-ethylpiperazin-2-one | 0.991 g | C(C)N1CC(NCC1)=O | C6H12N2O
